US07563816B2
Step B. Cyclopentylidene(6-methoxy-1H-indazol-3-yl)methyl dimethyl phosphate
The title compound was prepared from (1-bromocyclopentyl)(6-methoxy-1H-indazol-3-yl)methanone and trimethyl phosphite using the procedure described in Method I Step B of Example 1 followed by RP-HPLC purification using 20-100% MeCN gradient. It was isolated as a white solid following lyophilization. 1H NMR (CDCl3, 500 MHz) δ 7.79 (d, 8.9 Hz, 1H), 6.85 (dd, 2.1 & 9.0 Hz, 1H), 6.81 (d, 1.8 Hz, 1H), 3.88 (s, 3H), 3.67 (d, 11.3 Hz, 6H), 2.72˜2.79 (m, 2H), 2.53˜2.59 (m, 2H), 1.70˜1.81 (m, 4H). LC-MS: 3.00 min. (n/Z=227.2, 353.2, 375.2).

reactant | (1-bromocyclopentyl)(6-methoxy-1H-indazol-3-yl)methanone | BrC1(CCCC1)C(=O)C1=NNC2=CC(=CC=C12)OC | C14H15BrN2O2
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
product | Cyclopentylidene(6-methoxy-1H-indazol-3-yl)methyl dimethyl phosphate | P(=O)(OC(C1=NNC2=CC(=CC=C12)OC)=C1CCCC1)(OC)OC | C16H21N2O5P
